US09289430B2
Into a 100-mL round bottom flask, was placed a solution of 1-(3,4-dimethylphenyl)-3-nitro-1H-pyrazole (900 mg, 4.15 mmol, 1.00 equiv) in methanol/ethyl acetate (20/10 mL). The solution was treated with Pd/C (500 mg) and stirred under an atmosphere of hydrogen overnight at room temperature. The reaction progress was monitored by LCMS. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield 750 mg (97%) of 1-(3,4-dimethylphenyl)-1H-pyrazol-3-amine as a yellow solid.

reactant | 1-(3,4-dimethylphenyl)-3-nitro-1H-pyrazole | 4.15 mmol, 900 mg, 1.00 equiv | CC=1C=C(C=CC1C)N1N=C(C=C1)[N+](=O)[O-] | C11H11N3O2
solvent | methanol ethyl acetate | 10 mL | CO.C(C)(=O)OCC
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 1-(3,4-dimethylphenyl)-1H-pyrazol-3-amine | 750 mg, 97% | CC=1C=C(C=CC1C)N1N=C(C=C1)N | C11H13N3
